US06271015B1
Methyl-9-t-butyldiphenylsilyloxy-nonanoate (intermediate for compound 100: FIG. 5).
A solution of methyl-9-hydroxy-nonanoate (0.838 g, 4.46 mmol, 1.0 equiv: Aldrich) in CH2Cl2 (15 mL, 0.3 M) was treated successively with Et3N (0.75 mL, 5.38 mmol, 1.2 equiv), t-butylchlorodiphenylsilane (1.28 mL, 4.93 mmol, 1.1 equiv), and DMAP (0.180 g, 1.48 mmol, 0.33 equiv), and the reaction mixture was stirred at 25° C. for 12 h. Saturated aqueous NH4Cl was added to the reaction mixture and the mixture was partitioned between CH2Cl2 (100 mL) and H2O (100 mL). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Chromatography (SiO2, 5 cm×15 cm, 0-5% EtOAc-hexanes gradient elution ) afforded the intermeidate as a clear, colorless oil (1.22g, 1.831 theoretical, 64.1%): 1H NMR (CDCl3,250 MHz) δ 7.66 (m, 4H, ArH), 7.38 (m, 6H, ArH), 3.67-3.62 (m, 5H, C(O)OCH3 and CH2OTBDPS), 2.30 (t, 2H, J=7.4 Hz, CH2C(O)OCH3), 1.58 (m, 4H, CH2CH2OTBDPS and CH2CH2C(O)OCH3), 1.28 (b s, 8H, alkyl protons), 1.05 (s, 9H, C(CH3) 3)

reactant | methyl-9-hydroxy-nonanoate | 4.46 mmol, 0.838 g, 1.0 equiv | COC(CCCCCCCCO)=O | C10H20O3
reactant | Et3N | 5.38 mmol, 0.75 mL, 1.2 equiv | CCN(CC)CC | C6H15N
reactant | t-butylchlorodiphenylsilane | 4.93 mmol, 1.28 mL, 1.1 equiv | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 0.3 M, 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.48 mmol, 0.180 g, 0.33 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl-9-t-butyldiphenylsilyloxy-nonanoate | COC(CCCCCCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C26H38O3Si
